US06069176
5-(3,4-Dimethoxyphenyl)-3-ethoxy-2-cyclohexen-1-one (16.7 g) was dissolved in ethanol (260 ml), and then sodium borohydride (6.88 g) was gradually added and the mixture was stirred at 60° C. for 1.5 hours. After distilling off the reaction solvent under reduced pressure, and subsequent pouring over of ice water, extraction with ethyl acetate and drying with anhydrous magnesium sulfate, the solvent was concentrated under reduced pressure to produce a yellow oily substance. The oily substance was dissolved in ethyl acetate (20 ml), 4 N HCl-ethyl acetate solution (50 ml) was added and the mixture was stirred at room temperature for 13 hours. The reaction solution was washed with saturated sodium bicarbonate water and saturated saline and dried with anhydrous magnesium sulfate, after which the solvent was distilled off under reduced pressure to produce a yellow oily substance which was then purified by silica gel column chromatography (n-hexane:ethyl acetate=2:1). The resulting crystals were washed with diethyl ether to give 6.76 g of 5-(3,4-dimethoxyphenyl)-2-cyclohexen-1-one (48.1%).

reactant | 5-(3,4-Dimethoxyphenyl)-3-ethoxy-2-cyclohexen-1-one | 16.7 g | COC=1C=C(C=CC1OC)C1CC(=CC(C1)=O)OCC | C16H20O4
reactant | sodium borohydride | 6.88 g | [BH4-].[Na+]
reactant | HCl ethyl acetate | 4 N, 50 ml | Cl.C(C)(=O)OCC
solvent | ethanol | 260 ml | C(C)O | C2H6O
solvent | ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
product | 5-(3,4-dimethoxyphenyl)-2-cyclohexen-1-one | 6.76 g, 48.1% | COC=1C=C(C=CC1OC)C1CC=CC(C1)=O | C14H16O3
